US06248739B1
N-(4-Chlorobenzyl)-1-(1-methyl-4-piperidinyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide (formula W-5; Z=NMe)
A flask containing crude ethyl 1-(1-methyl-4-piperidinyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxylate (0.31 g) is treated with 4-chlorobenzylarnine (2.0 mL). The reaction is tightly capped and heated to 165° C. overnight. The reaction is cooled to room temperature, adsorbed onto silica and chromatographed on silica eluting with 2% to 10% methanol saturated with ammonia in dichloromethane and then by recrystallization from ethyl acetate-hexanes to afford 0.11 g of the title compound.

reactant | ethyl 1-(1-methyl-4-piperidinyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 0.31 g | CN1CCC(CC1)N1C=C(C(C2=CC(=CC=C12)CN1CCOCC1)=O)C(=O)OCC | C23H31N3O4
reactant | 4-chlorobenzylarnine | 2.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-1-(1-methyl-4-piperidinyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.11 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)C2CCN(CC2)C)C=C1 | C28H33ClN4O3
